US08258141B2
Pyridin-3-yl-carbamic acid phenyl ester
A solution of pyridine (2 ml) in DCM (10 ml) is treated with phenylchloroformate (1.83 g, 11.7 mmol). To this solution is added 3-aminopyridine (1.0 g, 10.6 mmol) in DCM (8 ml) which results in an exotherm of 20° C. The reaction mixture is stirred at room temperature for 2 hours and then concentrated in vacuo. The residue is partitioned between EtOAc and water and the organic portion is separated. This organic portion is washed with water, saturated sodium bicarbonate solution, dried (MgSO4) and concentrated in vacuo to afford the title compound as a white solid. (MH+ 215.13)

reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 11.7 mmol, 1.83 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | 3-aminopyridine | 10.6 mmol, 1.0 g | NC=1C=NC=CC1 | C5H6N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | Pyridin-3-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
